US05922645
1.5 g (4.8 mmol) of methyl 4-cyclopentylidenehydrazino-2-sulfamoylbenzoate and 1.6 g (5.8 mmol) of phenyl N-(4,6-dimethoxypyrimidin-2-yl)carbamate are initially introduced into 20 ml of acetonitrile. 1.6 g (10.6 mmol) of 1,8-diazabicyclo[5.4.0]undec-7-ene (DBU) are added dropwise at 0° C. and the mixture is stirred at this temperature for 2 hours. It is poured into water and the pH is brought to 2-3 with 2 N hydrochloric acid. The aqueous phase is extracted three times with CH2Cl2. After the methylene chloride phase has been washed with 2 N hydrochloric acid and water, it is dried and evaporated. The residue is triturated with diisopropyl ether. After filtering off with suction and drying, 1.55 g (65% of theory) of methyl 4-cyclopentylidenehydrazino-2-[3-(4,6-dimethoxypyrimidin-2-yl)-ureidosulfonyl]benzoate of melting point 168-170° C. (decomposition) are obtained.

reactant | methyl 4-cyclopentylidenehydrazino-2-sulfamoylbenzoate | 4.8 mmol, 1.5 g | C1(CCCC1)=NNC1=CC(=C(C(=O)OC)C=C1)S(N)(=O)=O | C13H17N3O4S
reactant | phenyl N-(4,6-dimethoxypyrimidin-2-yl)carbamate | 5.8 mmol, 1.6 g | COC1=NC(=NC(=C1)OC)NC(OC1=CC=CC=C1)=O | C13H13N3O4
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 10.6 mmol, 1.6 g | N12CCCCCC2=NCCC1 | C9H16N2
reactant | hydrochloric acid | 2 N | Cl | ClH
solvent | water | O | H2O
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | methyl 4-cyclopentylidenehydrazino-2-[3-(4,6-dimethoxypyrimidin-2-yl)-ureidosulfonyl]benzoate | 1.55 g, 65% | C1(CCCC1)=NNC1=CC(=C(C(=O)OC)C=C1)S(=O)(=O)NC(=O)NC1=NC(=CC(=N1)OC)OC | C20H24N6O7S
